US07687627B2
(S)-N-{3-[4-(1-oxa-7-aza-spiro[3.5]non-7-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
A mixture of 60% sodium hydride (6.0 mmol), trimethyloxo sulfonium iodide (6.1 mmol) was stirred for 30 minutes and (R)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (4.80 mmol) in DMSO (20 ml) was stirred for 75 hour at the room temperature. The reaction mixture was poured on ice water and extracted with ethyl acetate. The organic layer was dried and concentrated in vacuum to provide crude compound. The crude compound was purified over silica gel column to provide title compound in 20% yield.

reactant | sodium hydride | 6.0 mmol | [H-].[Na+]
reactant | trimethyloxo sulfonium iodide | 6.1 mmol | [I-].C[S+](=O)(C)C
reactant | (R)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 4.80 mmol | O1CC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@@H](C2)CNC(C)=O)=O)F | C18H22FN3O4
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | (S)-N-{3-[4-(1-oxa-7-aza-spiro[3.5]non-7-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 20% yield | O1CCC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C19H24FN3O4
